US04622342
1-(3-Fluoro-4-methoxyphenyl)propan-2-one
Concentrated hydrochloric acid (30 ml) was added dropwise, over 45 minutes, to a stirred mixture of iron powder (6 g) and 1-(3-fluoro-4-methoxyphenyl)-2-nitroprop-1-ene (5.7 g) in tetrahydrofuran (100 ml) at reflux. The mixture was heated under reflux for a further two hours, cooled, filtered and evaporated. Water (100 ml) was added to the residue and extracted with dichloromethane. The dried (magnesium sulphate) extracts were evaporated to dryness to give the title compound as an oil.

reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | 1-(3-fluoro-4-methoxyphenyl)-2-nitroprop-1-ene | 5.7 g | FC=1C=C(C=CC1OC)C=C(C)[N+](=O)[O-] | C10H10FNO3
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | iron | 6 g | [Fe] | Fe
product | 1-(3-Fluoro-4-methoxyphenyl)propan-2-one | FC=1C=C(C=CC1OC)CC(C)=O | C10H11FO2
